US06495546B1
To a mixture of N-benzyl-N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine (1.01 g), 2,6-lutidine (0.38 ml) and N,N-dimethylaminopyridine (0.067 g) in dichloromethane (20 ml) was added dropwise trifluoromethanesulfonic anhydride (0.51 ml) at −30° C. The mixture was warmed to room temperature over 3 hours and then washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (20:1) to afford N-benzyl-N-tert-butoxycarbonyl-(3-trifluoromethylsulfonyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (0.98 g).

reactant | N-benzyl-N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 1.01 g | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)O)C(=O)OC(C)(C)C | C23H29NO3
reactant | 2,6-lutidine | 0.38 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 0.51 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-benzyl-N-tert-butoxycarbonyl-(3-trifluoromethylsulfonyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 0.98 g | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)C1CC2=C(CCC1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C24H28F3NO5S
